US06037495
Synthesis of (E)-2-(2-acetoxymethylphenyl)-2-methoxyiminoacetamide--(1)
A mixture of (E)-2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide (428 mg), potassium carbonate (301 mg) and acetone (3.6 ml) was stirred at room temperature. To the mixture was added dropwise 95% dimethyl sulfate (0.20 ml). The mixture was stirred at room temperature for 4.5 hours. Water (10 ml) was added to the reaction mixture, and the mixture was stirred at room temperature for 30 minutes. Water (30 ml) was added, and the mixture was extracted with ethyl acetate three times. The combined ethyl acetate layer was washed with saturated brine and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave the crude product (440 mg). The crude product was crystallized from ethyl acetate-hexane, the crystallization mother liquor was concentrated and purified by silica gel thin layer chromatography (ethyl acetate:hexane=4:1) to obtain the title compound (432 mg in total, yield 95.6%, colorless crystals).

reactant | (E)-2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide | 428 mg | C(C)(=O)OCC1=C(C=CC=C1)\C(\C(=O)N)=N/O | C11H12N2O4
reactant | potassium carbonate | 301 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 3.6 ml | CC(=O)C | C3H6O
reactant | dimethyl sulfate | 0.20 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | Water | 30 ml | O | H2O
solvent | Water | 10 ml | O | H2O
product | (E)-2-(2-acetoxymethylphenyl)-2-methoxyiminoacetamide | 432 mg, yield 95.6% | C(C)(=O)OCC1=C(C=CC=C1)\C(\C(=O)N)=N/OC | C12H14N2O4
